US05025036
A mixture of 5.8 g (0.013 mol) of 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene, 3.5 g (0.013 mol) of 3-hydroxy-4-nitrobenzoic acid phenylmethyl ester, 3.5 g (0.026 mol) of anhydrous potassium carbonate and 2.9 g (0.019 mol) of sodium iodide in 125 ml of acetone and 13 ml of dimethylformamide was stirred and heated at reflux for 42 hours. Workup as described in example 16 and purification by HPLC using 10% ethyl acetate-hexane gave 5.45 g of 4-nitro-3-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid phenylmethyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene | 0.013 mol, 5.8 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | 3-hydroxy-4-nitrobenzoic acid phenylmethyl ester | 0.013 mol, 3.5 g | C1(=CC=CC=C1)COC(C1=CC(=C(C=C1)[N+](=O)[O-])O)=O | C14H11NO5
reactant | potassium carbonate | 0.026 mol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.019 mol, 2.9 g | [I-].[Na+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | 4-nitro-3-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid phenylmethyl ester | 5.45 g | C1(=CC=CC=C1)COC(C1=CC(=C(C=C1)[N+](=O)[O-])OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C40H39NO7
